* fet_amplifier (esim netlist via kicad-cli kicadxml)

.include NJF.lib
c1 net__j1_g in 1u
c6 net__j1_s gnd 0.1u
j1 out net__j1_g net__j1_s J2N3819
r2 gnd net__j1_g 1meg
r3 net__v2 out 3k
r4 gnd net__j1_s 470
* u1 in plot_v1
* u2 out plot_v1
v1 in gnd sine(0 10m 1k 0 0)
v2 net__v2 gnd  dc 10
.tran 10e-06 10e-03 0e-03

* Control Statements 
.control
set width=1000
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set filetype=ascii
write plot_data.raw
plot v(in)
plot v(out)
.endc
.end
