* rl (esim netlist via kicad-cli kicadxml)

l1 out gnd 100m
r1 in out 10
* u1 in plot_v1
* u2 out plot_v1
v1 in gnd pwl(0m 0 0.5m 5 50m 5 50.5m 0 100m 0)
.tran 10e-03 100e-03 0e-03

* Control Statements 
.control
set width=1000
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set filetype=ascii
write plot_data.raw
plot v(in)
plot v(out)
.endc
.end
